US07858621B2
3-(2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (30 mg, 0.057 mmol) was reacted with n-butylamine (500 μl) as in example 65 to give the title compound (3.6 mg, 12%) after purification by column chromatography (Hex EtOAc=1/1).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 0.057 mmol, 30 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C)C(F)(F)F | C19H14ClF4N3O3S
solvent | n-butylamine | 500 μl | C(CCC)N | C4H11N
product | 3-(2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 3.6 mg, 12% | C(CCC)NC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C)C(F)(F)F | C23H24F4N4O3S
